US04851418
[R-(R*,S*)]-1-Cyclopropyl-7-[3-[[2-[[(1,1-dimethylethoxy)carbonyl]amino]-1-oxo-3-phenylpropyl]amino]-1-pyrrolidinyl]-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
A suspension of 14.1 g (50 mmol) of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, 18.3 g (55 mmol) of [R-(R*,S*)]-[1-phenylmethyl-2-oxo-2-[(3-pyrrolidinyl)amino]ethyl]carbamic acid 1,1-dimethylethyl ester, 15.2 g (0.15 mol) of triethylamine and 200 ml of acetonitrile was heated at reflux for four hours. The solvent was removed in vacuo and the residue was dissolved in methylene chloride and washed with 100 ml of cold 1.0M hydrochloric acid and then water. After drying (MgSO4) and filtering, the solvent was removed in vacuo to give 26.2 g of the title compound.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 50 mmol, 14.1 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
reactant | [1-phenylmethyl-2-oxo-2-[(3-pyrrolidinyl)amino]ethyl]carbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(NC(C(NC1CNCC1)=O)CC1=CC=CC=C1)=O | C18H27N3O3
reactant | triethylamine | 0.15 mol, 15.2 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-7-[3-[[2-[[(1,1-dimethylethoxy)carbonyl]amino]-1-oxo-3-phenylpropyl]amino]-1-pyrrolidinyl]-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 26.2 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CC(CC1)NC(C(CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)F)=O)C(=O)O | C30H34FN5O6
